US05824796
5-(Tritylamino)pentylhydroxymethylenemalononitrile
To a dichloromethane solution of 6-(tritylamino)-caproic acid (20.0 g, 53 mmole) and triethylamine (20 mL) in an ice bath was added dropwise over 30 min isobutyl-chloroformate (8.3 mL, 64 mmole). After the mixture was stirred for 2 hr in an ice bath, freshly distilled malononitrile (4.2 g, 64 mmole) was added all at once. The solution was stirred for 2 hr in an ice bath and for 2 hr at RT. The dichloromethane solution was washed with ice cold 2N HCl (300 mL) and the biphasic mixture was filtered to remove product that precipitated (13.2 g). The phases were separated and the organic layer dried and evaporated to a thick syrup. The syrup was covered with dichloromethane and on standing deposited fine crystals of product. The crystals were filtered and dried to give 6.3 g for a total yield of 19.5 g (87%) of the product, which is useful as an intermediate.

reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 6-(tritylamino)-caproic acid | 53 mmole, 20.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCCC(=O)O | C25H27NO2
reactant | isobutyl-chloroformate | 64 mmole, 8.3 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | malononitrile | 64 mmole, 4.2 g | C(CC#N)#N | C3H2N2
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
product | 5-(Tritylamino)pentylhydroxymethylenemalononitrile | yield of 19.5 g, 87% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCCC(O)=C(C#N)C#N | C28H27N3O
